US06160064
Preparation of 2-(3,5-Bis(trimethylsilyl)phenyl)indene (Ligand 9)
Magnesium turnings (6.8 g, 0.28 mol) and anhydrous THF (100 mL) were placed in a three-necked flack under argon. A solution of 3,5-bis(trimethylsilyl)bromobenzene (85.2 g, 0.28 mol) in of THF (100 mL) was added incrementally to the THF and magnesium mixture keeping the temperature near reflux. The Grignard reaction started immediately after the addition of the first increment. The remaining solution was added over a one hour period. The resulting slurry was refluxed for an additional 30 minutes. The solution was cooled to 20° C. and a solution of 2-indanone (36.7 g, 0.28 mol) in ether (100 mL) was added dropwise over a 1 hour period. The solution was then stirred at room temperature overnight. The solution was neutralized with 1N HCl. The aqueous layer was separated and washed three times with 100 mL of ether. The organics were combined and dried over magnesium sulfate. The solvents were evaporated to yield a tan solid of the crude alcohol. This solid was taken up in acetic acid (200 mL) and cooled to 15° C. A solution of sulfuric acid (40 g) and of acetic acid (200 mL) was added slowly, keeping the temperature of the mixture near 15° C. The product separated as and oil. The acetic acid layer was diluted with 1L of ice water and extracted with toluene. The organic layer was separated and washed twice with sodium bicarbonate solution and dried over magnesium sulfate. The solvents were evaporated. The product was then taken up in a minimal amount of hexanes and passed through a short silica gel column to remove very polar material. Attempts to crystallize the product failed and the product was distilled to yield 20.5 g (22% yield), b.p. 175-180° C. @ 0.3 mm Hg. This procedure was repeated to yield an additional 22.3 grams of material. 1H NMR (C6D6): δ 7.45 (2H, s), 7.26 (1H, s), 7.13 (2H, dd), 6.94 (1H, m), 6.85 (2H, m), 3.51 (2H, s).

reactant | Magnesium | 0.28 mol, 6.8 g | [Mg] | Mg
reactant | 3,5-bis(trimethylsilyl)bromobenzene | 0.28 mol, 85.2 g | C[Si](C=1C=C(C=C(C1)[Si](C)(C)C)Br)(C)C | C12H21BrSi2
reactant | 2-indanone | 0.28 mol, 36.7 g | C1C(CC2=CC=CC=C12)=O | C9H8O
reactant | HCl | 1N | Cl | ClH
reactant | sulfuric acid | 40 g | S(O)(O)(=O)=O | H2O4S
solvent | ether | 100 mL | CCOCC | C4H10O
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-(3,5-Bis(trimethylsilyl)phenyl)indene | 22.3 grams, 22% yield | C[Si](C=1C=C(C=C(C1)[Si](C)(C)C)C=1CC2=CC=CC=C2C1)(C)C | C21H28Si2
